US04029787
4-(4-n-butylpiperazine-1-yl)-6-chloro-3-sulfamoylbenzoic acid
126 Grams of 6-chloro-4-fluoro-3-sulfamoylbenzoic acid (0.5 mole) were stirred with 0.2 l of N-butylpiperazine for 2 hours at 110° C. Subsequently the reaction solution was poured into 2 l of water, a small amount of amorphous precipitate formed was separated, and the filtrate was adjusted to a pH of 7.5 with 2N HCl. After having stood overnight at room temperature, the crystalline precipitate was suction-filtered and was recrystallized from a mixture of ethanol and water.

reactant | 6-chloro-4-fluoro-3-sulfamoylbenzoic acid | 0.5 mole | ClC1=CC(=C(C=C1C(=O)O)S(N)(=O)=O)F | C7H5ClFNO4S
reactant | N-butylpiperazine | 0.2 l | C(CCC)N1CCNCC1 | C8H18N2
solvent | water | 2 l | O | H2O
product | 4-(4-n-butylpiperazine-1-yl)-6-chloro-3-sulfamoylbenzoic acid | C(CCC)N1CCN(CC1)C1=C(C=C(C(=O)O)C(=C1)Cl)S(N)(=O)=O | C15H22ClN3O4S
